US05075495
Synthesis of 1-phenylcyclohexylperoxy neodecanoate
In a four-necked flask of 200 ml provided with a stirrer was charged 33.7 g of an aqueous solution of 30% potassium hydroxide, to which was added a mixture of 22.1 g of 95% 1-phenylcyclohexyl hydroperoxide and 30 g of benzene while the liquid temperature was maintained at 10° C. with stirring. Furthermore, 19.1 g of neodecanoyl chloride was added dropwise over 7 minutes while the liquid temperature was maintained at 15° C. with stirring. After the liquid temperature was raised to 25° C. and the stirring was continued for 2 hours, 40 g of cold water was added and further the stirring was made for 5 minutes. The water phase was separated and washed with an aqueous solution of 40 g of 5% sodium hydroxide and further with water three times. The solution was dried on magnesium sulfate anhydride and benzene was removed off under vacuum to obtain 24.0 g of a desired compound as a light yellow liquid. This compound had an active oxygen amount of 4.20%, a purity of 91% through calculation and a yield of 63 mol %.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 1-phenylcyclohexyl hydroperoxide | 22.1 g | C1(=CC=CC=C1)C1(CCCCC1)OO | C12H16O2
reactant | benzene | 30 g | C1=CC=CC=C1 | C6H6
reactant | neodecanoyl chloride | 19.1 g | C(CCCCCC(C)(C)C)(=O)Cl | C10H19ClO
solvent | water | 40 g | O | H2O
product | 1-phenylcyclohexylperoxy neodecanoate | 24.0 g | C(CCCCCC(C)(C)C)(=O)OOOC1(CCCCC1)C1=CC=CC=C1 | C22H34O4
